US09102614B2
Preparation of 4-bromo-1-hydroxy-3-methyl-2-naphthonitrile:
1-hydroxy-3-methyl-2-naphthonitrile (1.065 g, 5.8 mmol) was dissolved CHCl3 (24 mL) and combined with sodium bicarbonate (952 mg, 11.3 mmol) and bromine (330 μL, 6.43 mmol) and allowed to stir at room temperature overnight. The reaction was quenched by adding 10 mL of 10% sodium thiosulfate and the mixture stirred until decolorization was maximal. The solids were removed by filtration as crude product (1.47 g, 97% yield.) 1H-NMR: (300 MHz, DMSO-d6): δ 8.334 (d, J=8.0 Hz, 1H); 8.166 (d, J=8.4 Hz, 1H); 7.81-7.77 (m, 1H); 7.65-7.61 (m, 1H); 2.65 (s, 3H).

reactant | 1-hydroxy-3-methyl-2-naphthonitrile | 5.8 mmol, 1.065 g | OC1=C(C(=CC2=CC=CC=C12)C)C#N | C12H9NO
reactant | sodium bicarbonate | 11.3 mmol, 952 mg | C([O-])(O)=O.[Na+]
reactant | bromine | 6.43 mmol, 330 μL | BrBr | Br2
solvent | CHCl3 | 24 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-bromo-1-hydroxy-3-methyl-2-naphthonitrile | 1.47 g, 97% yield | BrC1=C(C(=C(C2=CC=CC=C12)O)C#N)C | C12H8BrNO
